US06391887B1
8-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
8-Fluoro-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one (1.0 g, 4.9 mmol) and magnesium (1.2 g, 49.2 mmol) are reacted to form 280 mg (28%) of product analogously to Example 7.

reactant | 8-Fluoro-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 4.9 mmol, 1.0 g | FC1=CC=2C3=C(C(NC2C=C1)=O)CCC3 | C12H10FNO
reactant | magnesium | 49.2 mmol, 1.2 g | [Mg] | Mg
product | 8-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 280 mg, 28% | FC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C12H12FNO
